US04035385
A solution of 13.5 g of 10-ethynyl-8-chloro-dibenzo[ b,f] thiepin in 150 ml. of absolute tetrahydrofuran is treated dropwise at room temperature with 52 ml. of a 1-M solution of ethylmagnesium bromide solution in tetrahydrofuran. After stirring the mixture for an additional hour, 1.85 g of paraformaldehyde are pyrrolyzed and led through the mixture in gaseous form. The solution, having now warmed to about 50° C., is stirred for an additional 30 minutes and then poured onto a saturated, aqueous ammonium chloride solution. By extraction with benzene and subsequent chromatography on silica gel using benzene/methanol (20:1) as the eluant, there is obtained 3-(8-chloro-dibenzo[ b,f] thiepin-10-yl)-2-propyn-1-ol which melts at 111°-113° C. after recrystallization from ethyl acetate/petroleum ether.

reactant | 10-ethynyl-8-chloro-dibenzo[ b,f] thiepin | 13.5 g | C(#C)C1=CC2=C(SC3=C1C=C(C=C3)Cl)C=CC=C2 | C16H9ClS
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | paraformaldehyde | 1.85 g | C=O | CH2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(8-chloro-dibenzo[ b,f] thiepin-10-yl)-2-propyn-1-ol | ClC=1C=CC2=C(C(=CC3=C(S2)C=CC=C3)C#CCO)C1 | C17H11ClOS
